US05763439
Preparation of 4-benzenesulfonylamino-2-tert-butyl-5-(4-pyridylmethylamino)pyridazin-3-(2H)-one (Compound No. 32)
Into 6 ml of a pyridine solution of 0.55 g of 4-amino-2-tert-butyl-5-(4-pyridylmethylamino)pyridazin-3-(2H)-one, 0.36 g of benzenesulfonyl chloride was dropwise added at room temperature. The mixture was reacted overnight, and 80 ml of water and 100 ml of methylene chloride were added to the system. The mixture was adjusted to pH4 with dilute hydrochloric acid under cooling with ice, and then stirred for 20 minutes. The organic layer was dried over anhydrous sodium sulfate and then concentrated. To the residue, 4 ml of ethyl acetate was added, and the mixture was mashed, whereupon crystals were collected by filtration. The obtained crystals were subjected to column chromatography, and using an eluent (n-hexane:ethyl acetate=1:5), 0.30 g of the desired product (Compound No. 32) having a melting point of from 189° to 190° C., was obtained.

reactant | pyridine | 6 ml | N1=CC=CC=C1 | C5H5N
reactant | 4-amino-2-tert-butyl-5-(4-pyridylmethylamino)pyridazin-3-(2H)-one | 0.55 g | NC=1C(N(N=CC1NCC1=CC=NC=C1)C(C)(C)C)=O | C14H19N5O
reactant | benzenesulfonyl chloride | 0.36 g | C1(=CC=CC=C1)S(=O)(=O)Cl | C6H5ClO2S
reactant | hydrochloric acid | Cl | ClH
solvent | methylene chloride | 100 ml | C(Cl)Cl | CH2Cl2
solvent | water | 80 ml | O | H2O
product | 4-benzenesulfonylamino-2-tert-butyl-5-(4-pyridylmethylamino)pyridazin-3-(2H)-one | C1(=CC=CC=C1)S(=O)(=O)NC=1C(N(N=CC1NCC1=CC=NC=C1)C(C)(C)C)=O | C20H23N5O3S
